US08314092B2
To a suspension of 7-chloro-2-methyl-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one (40.6 g, 164.58 mmoles) in methoxybenzene (250 mL) at 70° C. add N,N-dimethylaniline (2.8 equiv; 58.59 mL, 460.8 mmoles) in one portion followed by phosphoryl chloride (2.3 equiv (molar); 35.18 mL, 378.52 mmoles) over 20 minutes, controlling the exotherm by addition. Heat the resultant dark solution at 90° C. for 1.5 h. Add additional phosphoryl chloride (0.33 equiv; 5.05 mL, 54.31 mmoles) and heat the mixture at 90° C. for a further 1 h to give complete conversion. Evaporate to near dryness and partition the residue between water (500 mL) and ethyl acetate (2×500 mL). Combine organic layers and wash with water (500 mL) then brine. Dry over Na2SO4, filter and evaporate onto silica. Pass through a silica gel pad with iso-hexane/ethyl acetate (gradient elution 5 to 25%). Combine product fractions and evaporate to a small amount of solvent. Add iso-hexane (150 mL) and collect the resulting yellow powder by filtration, to give 7,11-dichloro-2-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepine (34.0 g, 78% yield). MS (m/z): 265.1 (M+1).

reactant | 7-chloro-2-methyl-5,10-dihydro-11H-pyrrolo[2,1-c][1,4]benzodiazepin-11-one | 164.58 mmoles, 40.6 g | ClC=1C=CC2=C(CN3C(C(N2)=O)=CC(=C3)C)C1 | C13H11ClN2O
reactant | N,N-dimethylaniline | 460.8 mmoles, 58.59 mL, 2.8 equiv | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphoryl chloride | 378.52 mmoles, 35.18 mL, 2.3 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphoryl chloride | 54.31 mmoles, 5.05 mL, 0.33 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methoxybenzene | 250 mL | COC1=CC=CC=C1 | C7H8O
product | 7,11-dichloro-2-methyl-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 34.0 g, 78% yield | ClC=1C=CC2=C(CN3C(C(=N2)Cl)=CC(=C3)C)C1 | C13H10Cl2N2
